US06509354B1
1.06 g (7.7 mmol) of 3-trifluoromethyl-1H-triazol, 1.38 g (6.5 mmol) of 4-chloro-2-n-propylthiobenzonitrile and 1.07 g (7.7 mmol) of potassium carbonate were stirred in 10 ml of N,N-dimethylformamide at 150° C. for 2 hours. The resulting reaction mixture was cooled to the room temperature and poured into 100 ml of water, and the organic matters were extracted with 50 ml of ethyl acetate twice. The ethyl acetate layers were combined, then washed with 50 ml of water twice and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Purification of the residue by silica gel column chromatography afforded 0.78 g of 2-propylthio-4-(3-trifluoromethyl-1H-triazolyl)benzonitrile (yield 38.2%) as a milk-white powder (m.p. 143-144° C.).

reactant | 3-trifluoromethyl-1H-triazol | 7.7 mmol, 1.06 g | FC(N1NNC=C1)(F)F | C3H4F3N3
reactant | 4-chloro-2-n-propylthiobenzonitrile | 6.5 mmol, 1.38 g | ClC1=CC(=C(C#N)C=C1)SCCC | C10H10ClNS
reactant | potassium carbonate | 7.7 mmol, 1.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-propylthio-4-(3-trifluoromethyl-1H-triazolyl)benzonitrile | 0.78 g, yield 38.2% | C(CC)SC1=C(C#N)C=CC(=C1)N1NN(C=C1)C(F)(F)F | C13H13F3N4S
